US05958944
Pyrazole-1-carboxamidine hydrochloride (284 mg) was added to a mixed solution of N-(1H-pyrazolo[3,4-b]pyridin-4-yl)-4-aminomethylbenzamide dihydrochloride (330 mg) and diisopropylethylamine (500 mg) in methanol (5 ml)-dimethylformamide (5 ml), and the mixture was stirred in a stream of nitrogen at room temperature for 8 hours. After the reaction, the reaction mixture was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform:methanol=3:1) to give white crystals. The crystals were converted to hydrochloride thereof with 15% hydrochloric acid-methanol, and the hydrochloride was recrystallized from methanol-ether to give 205 mg of N-(1H-pyrazolo[3,4-b]pyridin-4-yl)-4-guanidinomethylbenzamide dihydrochloride monohydrate having a melting point of 250-254° C. (dec.)

reactant | Pyrazole-1-carboxamidine hydrochloride | 284 mg | Cl.N1(N=CC=C1)C(=N)N
reactant | N-(1H-pyrazolo[3,4-b]pyridin-4-yl)-4-aminomethylbenzamide dihydrochloride | 330 mg | Cl.Cl.N1N=CC=2C1=NC=CC2NC(C2=CC=C(C=C2)CN)=O
reactant | diisopropylethylamine | 500 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydrochloride | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-(1H-pyrazolo[3,4-b]pyridin-4-yl)-4-guanidinomethylbenzamide dihydrochloride monohydrate | 205 mg | O.Cl.Cl.N1N=CC=2C1=NC=CC2NC(C2=CC=C(C=C2)CNC(=N)N)=O | InChI=1S/C15H15N7O.2ClH.H2O/c16-15(17)19-7-9-1-3-10(4-2-9)14(23)21-12-5-6-18-13-11(12)8-20-22-13;;;/h1-6,8H,7H2,(H4,16,17,19)(H2,18,20,21,22,23);2*1H;1H2
